US09403818B2
Preparation of methyl 8-(4-cyano-3-fluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-cyano-3-fluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and 4-cyano-3-fluoro-phenyl-boronic acid (85 mg, 0.51 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 94:6) afforded the title compound as a yellow solid (135 mg, 98%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 4-cyano-3-fluoro-phenyl-boronic acid | 0.51 mmol, 85 mg | C(#N)C1=C(C=C(C=C1)B(O)O)F | C7H5BFNO2
product | methyl 8-(4-cyano-3-fluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 135 mg, 98% | C(#N)C1=C(C=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)F | C22H17FN2O3
